US07429594B2
2-(4-Methoxybenzyl)-oxirane
To a stirring solution of 4-allylanisole (3.1 g, 20.9 mmol) in 50 mL dichloromethane was added 3-chloroperoxybenzoic acid (80%, 6.7 g, 31.4 mmol) at room temperature. TLC (20:1 hexanes/ethyl acetate) showed no remaining allyl after 3 h. The precipitate was removed via filtration and washed with hexanes. The filtrate was purified on 40 g silica eluting with 0 to 10% ethyl acetate/hexanes to give the product. NMR CDCl3) d (1H, 2.55 ppm), m (2H, 2.7-2.8 ppm), dd (1H, 2.85 ppm), m (1H, 3.1 ppm), s (3H, 3.75 ppm), d (2H, 6.85 ppm), d (2H, 7.15 ppm).

reactant | 4-allylanisole | 20.9 mmol, 3.1 g | C(C=C)C1=CC=C(C=C1)OC | C10H12O
reactant | 3-chloroperoxybenzoic acid | 31.4 mmol, 6.7 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-(4-Methoxybenzyl)-oxirane | COC1=CC=C(CC2OC2)C=C1 | C10H12O2
